data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
1881,2085,[CH3:15][NH:16][C:17](=[O:18])[CH-:19][NH+:20]=[C:21]([C:22](=[O:23])[O:24][CH3:25])[C:26](=[O:27])[O:28][CH3:29].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[CH:10]2[CH:11]=[CH:12][CH:13]1[O:14]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[CH:10]2[CH:11]3[CH:12]([CH:13]1[O:14]2)[C:21]([C:22](=[O:23])[O:24][CH3:25])([C:26](=[O:27])[O:28][CH3:29])[NH:20][CH:19]3[C:17]([NH:16][CH3:15])=[O:18],water,298.15,18.717023595496908,-37.61371095623624
4056,4647,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[CH3:7][NH:8][C:9](=[O:10])[C-:11]([CH3:12])[O+:13]=[C:14]([CH3:15])[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[C:11]([C:9]([NH:8][CH3:7])=[O:10])([CH3:12])[O:13][C:14]1([CH3:15])[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1,water,298.15,19.254457506726588,-39.4911174826324
4962,5649,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[O:11]=[c:12]1[o:13][c:14](-[c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[o+:21][c-:22]1-[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:14]1([c:15]3[cH:16][cH:17][cH:18][cH:19][cH:20]3)[O:13][C:12](=[O:11])[C:22]2([c:23]2[cH:24][cH:25][cH:26][cH:27][cH:28]2)[O:21]1,water,298.15,21.252576649108885,-11.900584364433104
60,71,[CH2-:4][N+:5]([CH3:6])=[C:7]([C:8]([CH3:9])=[O:10])[c:11]1[cH:12][cH:13][cH:14][cH:15][cH:16]1.[CH:1]#[C:2][CH3:3]>>[CH:1]1=[C:2]([CH3:3])[CH2:4][N:5]([CH3:6])[C:7]1([C:8]([CH3:9])=[O:10])[c:11]1[cH:12][cH:13][cH:14][cH:15][cH:16]1,water,298.15,22.442453469565987,-43.86121800222416
5213,5915,[CH3:10][NH:11][C:12](=[O:13])[C-:14]([C:15](=[O:16])[O:17][CH3:18])[N+:19]([CH3:20])=[C:21]([C:22](=[O:23])[O:24][CH3:25])[c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([NH:11][CH3:10])=[O:13])([C:15](=[O:16])[O:17][CH3:18])[N:19]([CH3:20])[C:21]1([C:22](=[O:23])[O:24][CH3:25])[c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1,water,298.15,37.722039501308,-12.887713770450018
1298,1423,[CH3:14][C:15](=[O:16])[N:17]=[N+:18]([CH3:19])[N-:20][c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1.[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]#[N:8])[CH:9]2[CH2:10][CH2:11][CH:12]1[CH2:13]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([C:7]#[N:8])([CH:9]3[CH2:10][CH2:11][CH:12]1[CH2:13]3)[N:20]([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[N:18]([CH3:19])[N:17]2[C:15]([CH3:14])=[O:16],water,298.15,26.715675341266927,-7.531363290568036
3623,4142,[CH3:9][NH:10][C:11](=[O:12])[C-:13]([CH3:14])[O+:15]=[CH:16][C:17]([CH3:18])=[O:19].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@@H:5]([C:6](=[O:7])[O-:8])[C:13]([C:11]([NH:10][CH3:9])=[O:12])([CH3:14])[O:15][CH:16]1[C:17]([CH3:18])=[O:19],water,298.15,14.152980225051756,-40.10846789083634
602,662,[CH3:8][NH:9][C:10](=[O:11])[C:12]([C:13](=[O:14])[O:15][CH3:16])=[N+:17]([CH3:18])[C-:19]([CH3:20])[C:21]#[N:22].[CH:1]1=[CH:2][CH:3]2[CH:4]=[CH:5][CH:6]1[O:7]2>>[CH:1]1=[CH:2][CH:3]2[CH:4]3[CH:5]([CH:6]1[O:7]2)[C:19]([CH3:20])([C:21]#[N:22])[N:17]([CH3:18])[C:12]3([C:10]([NH:9][CH3:8])=[O:11])[C:13](=[O:14])[O:15][CH3:16],water,298.15,17.669000585142573,-46.2880798129113
529,577,[CH3:11][C-:12]([N+:13]#[C:14][C:15]#[N:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1.[CH3:1][NH:2][C:3](=[O:4])[C:5]#[C:6][C:7]([F:8])([F:9])[F:10]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([F:8])([F:9])[F:10])[C:14]([C:15]#[N:16])=[N:13][C:12]1([CH3:11])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1,water,298.15,6.747236216312037,-65.10040908745887
4652,5305,[CH3:9][O:10][C:11](=[O:12])[N-:13][O+:14]=[C:15]([C:16](=[O:17])[O:18][CH3:19])[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1.[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[N:13]([C:11]([O:10][CH3:9])=[O:12])[O:14][C:15]1([C:16](=[O:17])[O:18][CH3:19])[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1,water,298.15,19.769765317472,-30.876522538800163
4099,4692,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][NH:8][C:9](=[O:10])[C:11]([C:12](=[O:13])[O:14][CH3:15])=[N+:16]([CH3:17])[CH-:18][C:19]([CH3:20])=[O:21]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[CH:18]([C:19]([CH3:20])=[O:21])[N:16]([CH3:17])[C:11]1([C:9]([NH:8][CH3:7])=[O:10])[C:12](=[O:13])[O:14][CH3:15],water,298.15,27.01086329996037,-16.864078372029276
